US07737136B2
4-Bromo-2-nitro-1-phenoxybenzene (Structure 42 of Scheme XI)
Cs2CO3 (4 g, 12.3 mmol) was added to a solution of phenol (1 g, 10.6 mmol) in 50 mL of THF under N2 atmosphere. After stirring for 15 min. 1,4-dibromo-2-nitrobenzene (2.81 g, 10 mmol) was added. The resulting mixture was heated to reflux and stirred overnight at reflux. Water and ethyl acetate were added, followed by extraction with ethyl acetate (3×). The combined organic layers were washed with water and brine, dried (Na2SO4) and evaporated to give the crude compound (3.2 g, 75%).

reactant | Cs2CO3 | 12.3 mmol, 4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | phenol | 10.6 mmol, 1 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1,4-dibromo-2-nitrobenzene | 10 mmol, 2.81 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | Water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-2-nitro-1-phenoxybenzene | 3.2 g, 75% | BrC1=CC(=C(C=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C12H8BrNO3
